US08895776B2
Step A: Preparation of 3-Methoxyphenyl(phenyl)carbamic Chloride
To a cooled solution of 3-methoxy-N-phenylaniline (100.0 mg, 0.502 mmol) and pyridine (0.102 mL, 1.267 mmol) in DCM (500 mL) was added triphosgene (120.0 mg, 0.406 mmol). The solution was allowed to warm up to room temperature and stirred overnight. The organic solvent was evaporated. The residue was dissolved in ethyl acetate, washed with water, brine, dried over MgSO4 and concentrated to provide the title compound (105.0 mg). LCMS m/z=261.9 [M+H]+; 1H NMR (400 MHz, DMSO-d6) δ ppm 3.79 (s, 3H), 6.90-7.31 (m, 3H), 7.32-7.52 (m, 4H), 7.52-7.70 (m, 2H).

reactant | 3-methoxy-N-phenylaniline | 0.502 mmol, 100.0 mg | COC=1C=C(NC2=CC=CC=C2)C=CC1 | C13H13NO
reactant | pyridine | 1.267 mmol, 0.102 mL | N1=CC=CC=C1 | C5H5N
reactant | triphosgene | 0.406 mmol, 120.0 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | DCM | 500 mL | C(Cl)Cl | CH2Cl2
product | 3-Methoxyphenyl(phenyl)carbamic Chloride | 105.0 mg | COC=1C=C(C=CC1)N(C(=O)Cl)C1=CC=CC=C1 | C14H12ClNO2
